US07662972B2
Step 3: Production of 4-hydroxyiminomethyl-2-methyl-N-(2,2,2-trifluoroethyl)benzoic acid amide
In a solution of 0.8 g of 4-formyl-2-methyl-N-(2,2,2-trifluoroethyl)benzoic acid amide in 10 ml of ethanol and 5 ml of water, 0.3 g of hydroxyamine hydrochloride and 0.4 g of anhydrous sodium acetate were added with stirring at room temperature, and stirred at the same temperature for 30 minutes. After the completion of the reaction, the solvent was distilled off under reduced pressure, and precipitated crystal was filtered off, washed with water and dried to obtain 0.5 g of the aimed product as white crystal.

reactant | 4-formyl-2-methyl-N-(2,2,2-trifluoroethyl)benzoic acid amide | 0.8 g | C(=O)C1=CC(=C(C(=O)NCC(F)(F)F)C=C1)C | C11H10F3NO2
reactant | hydroxyamine hydrochloride | 0.3 g | Cl.ON
reactant | sodium acetate | 0.4 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 4-hydroxyiminomethyl-2-methyl-N-(2,2,2-trifluoroethyl)benzoic acid amide | 0.5 g | ON=CC1=CC(=C(C(=O)NCC(F)(F)F)C=C1)C | C11H11F3N2O2
